2116-12-07 09:43:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, hypotension, ALL, pneumonia,
   acidosis, anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient given fluids overnight. Levophed required. Fever to 101.4;
   started on cooling blanket.
   Given Kayexalate for potassium 6.3.
   Insulin drip started for persistent hyperglycemia.
   Urine output 80 cc/hr
   Transaminases and bilirubin elevated.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2116-12-6**] 04:30 PM
 PICC LINE - START [**2116-12-6**] 06:09 PM
 ARTERIAL LINE - START [**2116-12-6**] 09:00 PM
 MULTI LUMEN - START [**2116-12-6**] 11:16 PM
 SPUTUM CULTURE - At [**2116-12-7**] 05:27 AM
 ARTERIAL LINE - STOP [**2116-12-7**] 06:39 AM
 FEVER - 101.4
F - [**2116-12-6**] 10:00 PM
   History obtained from Medical records
   Patient unable to provide history: Sedated, Intubated
   Allergies:
   Compazine (Oral) (Prochlorperazine Maleate)
   dystonia;
   Last dose of Antibiotics:
   Levofloxacin - [**2116-12-6**] 11:42 PM
   Acyclovir - [**2116-12-7**] 04:00 AM
   Ceftriaxone - [**2116-12-7**] 06:49 AM
   Vancomycin - [**2116-12-7**] 07:40 AM
   Infusions:
   Midazolam (Versed) - 7 mg/hour
   Fentanyl - 301.7 mcg/hour
   Norepinephrine - 0.06 mcg/Kg/min
   Insulin - Regular - 0.5 units/hour
   Other ICU medications:
   Midazolam (Versed) - [**2116-12-7**] 12:17 AM
   Fentanyl - [**2116-12-7**] 12:17 AM
   Other medications:
   Solumendrol, paroxitene, Insulin infusion
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-12-7**] 09:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.7
C (99.9
   HR: 90 (81 - 110) bpm
   BP: 141/66(84) {82/44(54) - 141/70(85)} mmHg
   RR: 26 (23 - 39) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 12 (11 - 18)mmHg
   Total In:
                                                                  5,355 mL
                                                                  1,740 mL
   PO:
   TF:
   IVF:
                                                                  3,157 mL
                                                                  1,650 mL
   Blood products:
                                                                    198 mL
   Total out:
                                                                    790 mL
                                                                    725 mL
   Urine:
                                                                    750 mL
                                                                    725 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,565 mL
                                                                  1,015 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (0 - 600) mL
   Vt (Spontaneous): 553 (553 - 630) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%, RR >35
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: 7.34/35/90.[**Numeric Identifier 126**]/16/-5
   Ve: 13.5 L/min
   PaO2 / FiO2: 150
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, Distant, No(t) Loud, No(t) Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   Anterior and lateral, No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, No(t) Distended, No(t) Tender: , Obese,
   Bowel sounds diminished
   Extremities: Right: Absent edema, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, No(t) Oriented (to): , Movement: Not assessed,
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   15 K/uL
   207 mg/dL
   1.0 mg/dL
   16 mEq/L
   6.3 mEq/L
   39 mg/dL
   111 mEq/L
   140 mEq/L
   24.5 %
   3.4 K/uL
        [image002.jpg]
                             [**2116-12-6**]  09:00 PM
                             [**2116-12-6**]  10:26 PM
                             [**2116-12-7**]  03:00 AM
                             [**2116-12-7**]  03:18 AM
   WBC
   3.4
   Hct
   24.5
   Plt
   15
   15
   Cr
   1.0
   TCO2
   21
   20
   Glucose
   133
   207
   Other labs: PT / PTT / INR:17.5/35.7/1.6, ALT / AST:42/324, Alk Phos /
   T Bili:332/3.2, Lactic Acid:5.3 mmol/L, Albumin:2.9 g/dL, Ca++:8.0
   mg/dL, Mg++:1.6 mg/dL, PO4:4.7 mg/dL
   Imaging: CXR: small lung volumes. Possible RML infiltrate. RLL
   atelectasis, possible retrocardiac density
   Assessment and Plan
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 CIRRHOSIS OF LIVER, OTHER
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 .H/O INTRAVENOUS DRUG ABUSE (IVDU, IVDA)
 SHOCK, SEPTIC
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   HYPOTENSION
   ACIDEMIA
   PNEUMONIA
   Patient with hypoxemic respiratory failure and increased dead space.
   CXR shows possible basilar infiltates. Patient on broad spectrum
   antibiotics for pneumonia. FIO2 reduced to 0.5 on rounds. O2 sat
   appears to be holding in mid-90's. Patient switched from assist control
   to pressure support ventilation. Tidal volume still within range for
   ARDS protocol, although I don't think the CXR is consistent with ARDS
   at this time.
   Patient on broad spectrum antibiotics for pneumonia. Patient to have
   RUQ ultrasound for increasing LFT's.
   Acidosis a combination of anion gap from lactic acid and non-gap
   acidosis from volume resuscitation with normal saline. Will give next
   liter of fluid as D5W  with bicarbonate since compensation for the
   acidosis requires excessive ventilation. Avoid lactated Ringers until
   potassium corrected.
   Patient's BP is improving, although still requiring levophed. CVP
   suggests still somewhat undervolume resuscitated (given PEEP of 8).
   Will continue fluids and wean off pressors. Consider adding
   vasopressin. If mixed venous saturation low, consider transfusion.
   Hct low related to his leukemia. Transfusion if mixed sat is low.
   Patient
s platelet count low. Probably related to leukemia.  No hx of
   HIT. Blood in Foley bag. Will transfuse platelets.
   Cannot assess mental status now with sedation.
   ICU Care
   Nutrition: NPO
   Glycemic Control:  Insulin infusion
   Lines:
   PICC Line - [**2116-12-6**] 06:09 PM
   Multi Lumen - [**2116-12-6**] 11:16 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill

2116-12-09 06:39:00 Physician Resident Progress Note
Chief Complaint: Fever, Altered mental status
   24 Hour Events:
   Pt was made CMO.
   Extubated.
   DIC labs +
   Tbili: 5.1 Alb:
   LDH: [**Numeric Identifier 4203**] Dbili: 0.8
   Fibrinogen: 463
   Plt: 24
   Allergies:
   Compazine (Oral) (Prochlorperazine Maleate)
   dystonia;
   Last dose of Antibiotics:
   Levofloxacin - [**2116-12-6**] 11:42 PM
   Acyclovir - [**2116-12-8**] 04:19 AM
   Vancomycin - [**2116-12-8**] 08:20 AM
   Ceftriaxone - [**2116-12-8**] 08:36 AM
   Infusions:
   Morphine Sulfate - 42 mg/hour
   Other ICU medications:
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   nonverbal
   Flowsheet Data as of  [**2116-12-9**] 06:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 36.9
C (98.4
   HR: 101 (99 - 113) bpm
   BP: 102/45(57) {97/39(56) - 114/46(63)} mmHg
   RR: 19 (14 - 26) insp/min
   SpO2: 85%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
    CVP: 10 (10 - 10)mmHg
   Total In:
                                                                  1,552 mL
                                                                    140 mL
   PO:
   TF:
   IVF:
                                                                  1,323 mL
                                                                    140 mL
   Blood products:
                                                                    199 mL
   Total out:
                                                                  2,000 mL
                                                                  1,050 mL
   Urine:
                                                                  2,000 mL
                                                                  1,050 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -448 mL
                                                                   -910 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 827 (827 - 827) mL
   RR (Spontaneous): 16
   PEEP: 8 cmH2O
   FiO2: 21%
   PIP: 17 cmH2O
   SpO2: 85%
   ABG: ////
   Ve: 13.2 L/min
   Physical Examination
   Gen
 NAD, eyes closed, nonresponsive to verbal stimuli
   Chest
 CTA bilaterally
   CV
 RRR
   Labs / Radiology
   24 K/uL
   5.8 g/dL
   65 mg/dL
   1.0 mg/dL
   25 mEq/L
   5.0 mEq/L
   54 mg/dL
   109 mEq/L
   146 mEq/L
   16.5 %
   0.4 K/uL
        [image002.jpg]
                             [**2116-12-6**]  10:26 PM
                             [**2116-12-7**]  03:00 AM
                             [**2116-12-7**]  03:18 AM
                             [**2116-12-7**]  09:52 AM
                             [**2116-12-7**]  11:13 AM
                             [**2116-12-7**]  11:51 AM
                             [**2116-12-7**]  03:01 PM
                             [**2116-12-7**]  03:16 PM
                             [**2116-12-7**]  11:45 PM
                             [**2116-12-8**]  04:06 AM
   WBC
   3.4
   0.8
   0.4
   Hct
   24.5
   19.5
   16.5
   Plt
   15
   15
   25
   22
   29
   24
   Cr
   1.0
   1.0
   1.0
   1.0
   TCO2
   20
   18
   25
   Glucose
   [**Telephone/Fax (3) 4184**]5
   Other labs: PT / PTT / INR:21.1/36.5/2.0, ALT / AST:42/324, Alk Phos /
   T Bili:332/5.1, Differential-Neuts:31.0 %, Band:4.0 %, Lymph:49.0 %,
   Mono:6.0 %, Eos:0.0 %, Fibrinogen:463 mg/dL, Lactic Acid:4.9 mmol/L,
   Albumin:2.9 g/dL, LDH:[**Numeric Identifier 4203**] IU/L, Ca++:7.4 mg/dL, Mg++:1.8 mg/dL,
   PO4:6.1 mg/dL
   Assessment and Plan
   Assesment: This is a 53 year-old male with a history of relapsing
   refractory ALL on prednisone and rituximab and HCV cirrhosis who
   presents with fever, altered mental status, and hypotension.
   Presentation likely consistent with sepsis. In conjunction with
   oncology and family patient was made CMO and extubated yesterday.
   .
   Plan:
   .
   # Comfort
 Morphine drip to patient comfort, tylenol for fevers,
   lidocaine jelly.  No lab draws or radiology studies
   .
   # Code: CMO
   .
   # Dispo:  ICU for now
   .
   # Comm: with pt's mother [**Telephone/Fax (1) 4160**] ([**Female First Name (un) 4161**]) and Son [**Telephone/Fax (1) 4162**]
   (cell), [**Telephone/Fax (1) 4163**] (home) [[**Doctor Last Name 20**]]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2116-12-6**] 11:16 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Comfort measures only
   Disposition: